US06352976B1
7.4 Synthesis of (S)-2-thioacetyl-3-methylbutyroyl-(L)-homophenylalanyl-(L)-phenylalanine N-methyl amide
Combine (R)-2-bromo-3-methylbutyroyl-(L)-homophenylalanyl-(L)-phenylalanine N-methyl amide (0.466 g, 0.93 mmol) and dimethylformamide (3 mL). Add thioacetic acid (0.066 mL, 0.93 mmol) and cesium carbonate (0.151 g, 0.46 mmol). After 18 hours, partition the reaction mixture between ethyl acetate and an aqueous 2 M hydrochloric acid solution. separate the layers, extract the organic layer with water and a saturated aqueous sodium bicarbonate solution, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 10% acetone/dichloromethane, 15% acetone/dichloromethane, and then 20% acetone/dichloromethane to give the title compound.

reactant | (R)-2-bromo-3-methylbutyroyl-(L)-homophenylalanyl-(L)-phenylalanine N-methyl amide | 0.93 mmol, 0.466 g | CNC([C@@H](NC([C@H](NC(CC(C)C)=O)CCC1=C(C=CC=C1)Br)=O)CC1=CC=CC=C1)=O | C25H32BrN3O3
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
reactant | thioacetic acid | 0.93 mmol, 0.066 mL | C(C)(=S)O | C2H4OS
reactant | cesium carbonate | 0.46 mmol, 0.151 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone dichloromethane | CC(=O)C.ClCCl
product | (S)-2-thioacetyl-3-methylbutyroyl-(L)-homophenylalanyl-(L)-phenylalanine N-methyl amide | CNC([C@@H](NC([C@@H](NC(CC(C)C)=O)CCC1=C(C=CC=C1)C(C)=S)=O)CC1=CC=CC=C1)=O | C27H35N3O3S
